US04483863
A paste of tri-n-butyltin azide (2.45 g) and 1-cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (2.0 g) was heated at 160° C. for three hours. A further quantity of tri-n-butyltin azide (0.2 g) was added and the heating continued for a further hour to complete the reaction. The resulting viscous oil was triturated with ethyl acetate and the product collected and dried under vacuum to give 2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-(2-tribut-1-ylstannyltetrazol-5-yl)propan-2-ol as a crystalline solid (3.1 g, 73%) m/e 628.

reactant | tri-n-butyltin azide | 2.45 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | 1-cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 2.0 g | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
reactant | tri-n-butyltin azide | 0.2 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-(2-tribut-1-ylstannyltetrazol-5-yl)propan-2-ol | 3.1 g, 73% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CC=1N=NN(N1)[Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C12H10Cl2N7O.3C4H9.Sn/c13-8-1-2-9(10(14)3-8)12(22,4-11-17-19-20-18-11)5-21-7-15-6-16-21;3*1-3-4-2;/h1-3,6-7,22H,4-5H2;3*1,3-4H2,2H3;/q-1;;;;+1
